US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine but starting with N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.15, 1.31, 2.13, 2.47, 2.71, 3.45˜3.59, 3.77, 3.85, 4.03, 4.28, 4.93, 5.21, 6.54, 6.81, 6.83, 7.11, 7.26; IR (diffuse reflectance) 2970, 2932, 2403 (w), 2350 (w), 2334 (w), 2212 (w), 1965 (w), 1608, 1537 (s), 1482 (s), 1393, 1294, 1242, 1200, 1165 cm−1 HRMS (ESI) calcd for C25H33N5O2S+H1 468.2433. found 468.2416.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H32N4O2
product | N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C=1SC=CN1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C25H33N5O2S
